US07888376B2
The slurry of (S)-1-azido-4,4,4-trifluorobutan-2-ol (2.26 g, 13 mmol) and Pd/C (200 mg) in MeOH (20 mL) was subjected to balloon hydrogenation for 18 hr. The reaction mixture was filtered through a celite pad and the filtrate was concentrated in vacuo to give (S)-1-amino-4,4,4-trifluorobutan-2-ol as a crude product (1.02 g, 45%). NMR: 400 MHz 1H (CDCl3) 3.88 ppm, 1 H, m, J=7.85, 7.85, 3.84, 3.74 Hz; 2.93 ppm, 1 H, dd, J=12.74, 3.52 Hz; 2.61 ppm, 1H, dd, J=12.52, 8.13 Hz; 2.34 ppm, 1 H, m; 2.21 ppm, 1 H, m; 1.91 ppm, 3 H, s.

reactant | (S)-1-azido-4,4,4-trifluorobutan-2-ol | 13 mmol, 2.26 g | N(=[N+]=[N-])C[C@H](CC(F)(F)F)O | C4H6F3N3O
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | (S)-1-amino-4,4,4-trifluorobutan-2-ol | NC[C@H](CC(F)(F)F)O | C4H8F3NO
